US07101899B1
N-[4-[2-amino-4-(3,5-dimethylphenyl)-1,3-thiazol-5-yl]-2-pyridyl]benzylamine dihydrochloride
A 10% solution of hydrogen chloride in methanol (10 mL) was added to a suspension of N-[4-[2-amino-4-(3,5-dimethylphenyl)-1,3-thiazol-5-yl]-2-pyridyl]benzylamine (0.80 g, 2.1 mmol) in methanol (50 mL) and the mixture was stirred at room temperature for 5 hours. The solvent was distilled off and the residue was recrystallized from methanol-ethyl acetate to obtain 0.73 g (1.6 mmol, yield 76%) to obtain the title compound.

reactant | hydrogen chloride | Cl | ClH
reactant | N-[4-[2-amino-4-(3,5-dimethylphenyl)-1,3-thiazol-5-yl]-2-pyridyl]benzylamine | 2.1 mmol, 0.80 g | NC=1SC(=C(N1)C1=CC(=CC(=C1)C)C)C1=CC(=NC=C1)NCC1=CC=CC=C1 | C23H22N4S
solvent | methanol | 10 mL | CO | CH4O
solvent | methanol | 50 mL | CO | CH4O
product | N-[4-[2-amino-4-(3,5-dimethylphenyl)-1,3-thiazol-5-yl]-2-pyridyl]benzylamine dihydrochloride | yield 76% | Cl.Cl.NC=1SC(=C(N1)C1=CC(=CC(=C1)C)C)C1=CC(=NC=C1)NCC1=CC=CC=C1 | InChI=1S/C23H22N4S.2ClH/c1-15-10-16(2)12-19(11-15)21-22(28-23(24)27-21)18-8-9-25-20(13-18)26-14-17-6-4-3-5-7-17;;/h3-13H,14H2,1-2H3,(H2,24,27)(H,25,26);2*1H
